US06730626B2
Next, 0.98 g (2.11 millimole) of this 4,6-di-tert-butyl-2-diphenylphosphinophenyl trimethylsilyl ether was dissolved in 15 ml of dehydrated tetrahydrofuran under nitrogen flow, and the solution was cooled down to −30° C. Then, a dehydrated tetrahydrofuran solution of 0.4 g (1.06 millimole) of a zirconium tetrachloride tetrahydrofuran adduct was added thereto step by step, and the solution was stirred at a room temperature for one hour. Further, the solution was refluxed for 3 days by heating. The solvent was distilled off under reduced pressure, and the residue was recrystallized from dichloromethane/hexane, whereby obtained was 0.29 g (yield: 29.0%) of bis (2-diphenylphosphino-4,6-di-tert-butylphenoxy) zirconium dichloride.

reactant | 4,6-di-tert-butyl-2-diphenylphosphinophenyl trimethylsilyl ether | 2.11 millimole, 0.98 g | C[Si](C)(C)OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C29H39OPSi
reactant | zirconium tetrachloride tetrahydrofuran | 1.06 millimole, 0.4 g | O1CCCC1.[Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | bis (2-diphenylphosphino-4,6-di-tert-butylphenoxy) zirconium dichloride | 0.29 g, yield: 29.0% | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=C(O[Zr+2]OC2=C(C=C(C=C2C(C)(C)C)C(C)(C)C)P(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC(=C1)C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | InChI=1S/2C26H31OP.2ClH.Zr/c2*1-25(2,3)19-17-22(26(4,5)6)24(27)23(18-19)28(20-13-9-7-10-14-20)21-15-11-8-12-16-21;;;/h2*7-18,27H,1-6H3;2*1H;/q;;;;+4/p-4
